US09226921B2
134h) 4-(2,3-dihydro-1H-imidazo[2′,1′:2,3]imidazo[4,5-b]pyridin-1-yl)aniline
A mixture of 1-(4-nitrophenyl)-2,3-dihydro-1H-imidazo[2′,1′:2,3]imidazo[4,5-b]pyridine (1.7 g) and 10% palladium on carbon (50% wet, 1.0 g) in MeOH (150 mL) was hydrogenated under balloon pressure at room temperature for 1 day. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure to give the title compound (1.2 g).

reactant | 1-(4-nitrophenyl)-2,3-dihydro-1H-imidazo[2′,1′:2,3]imidazo[4,5-b]pyridine | 1.7 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN2C1=NC=1C2=NC=CC1 | C14H11N5O2
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | MeOH | 150 mL | CO | CH4O
product | 4-(2,3-dihydro-1H-imidazo[2′,1′:2,3]imidazo[4,5-b]pyridin-1-yl)aniline | 1.2 g | N1(CCN2C1=NC=1C2=NC=CC1)C1=CC=C(N)C=C1 | C14H13N5
